US08557830B2
Preparation of 9-(4-methoxybenzyl)-6-(2-fluoropyridin-3-yl)-9H-purine
A mixture of 9-(4-Methoxybenzyl)-6-bromo-9H-purine (2.7 g, 8.5 mmol), 2-fluoropyridin-3-ylboronic acid (1.8 g, 13 mmol) and potassium acetate (2.5 g, 25 mmol) in 1-butanol (50 mL) and water (10 mL) was purged with Ar (vacuum/purge three times) to remove oxygen, then PdCl2(PtBu2Ph)2 (0.063 g, 0.10 mmol) was added. The reaction mixture was stirred in a 100° C. oil bath for 45 min. The reaction mixture was allowed to cool to RT and diluted with Et2O (300 mL). The mixture was washed with water (2×100 mL), brine (50 mL), dried over Na2SO4, and filtered. Some product precipitated before the filtration so the Na2SO4 was washed with 3:1 CHCl3:IPA to dissolve all product. The combined filtrate was concentrated in vacuo to ˜50 mL as a suspension. The suspension was diluted with Et2O (200 mL) and hexane (200 mL) and the solid collected by suction filtration. The solid was washed with hexane (50 mL) and dried under a stream of N2 with vacuum suction for 14 h to afford 2.39 g (crop 1) as a pale orange fine crystalline solid. The mother liquors were concentrated in vacuo to ˜100 mL to afford a second crop of product. The second crop was collected by suction filtration, washed with hexane (100 mL) and dried under a stream of N2 as above to provide 200 mg (crop 2) as a pale orange fine crystalline solid. MS (ESI, pos. ion) m/z: 336.1 [M+H]+.

reactant | 9-(4-Methoxybenzyl)-6-bromo-9H-purine | 8.5 mmol, 2.7 g | COC1=CC=C(CN2C3=NC=NC(=C3N=C2)Br)C=C1 | C13H11BrN4O
reactant | 2-fluoropyridin-3-ylboronic acid | 13 mmol, 1.8 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | potassium acetate | 25 mmol, 2.5 g | C(C)(=O)[O-].[K+]
solvent | 1-butanol | 50 mL | C(CCC)O | C4H10O
solvent | water | 10 mL | O | H2O
solvent | Et2O | 300 mL | CCOCC | C4H10O
product | 9-(4-methoxybenzyl)-6-(2-fluoropyridin-3-yl)-9H-purine | COC1=CC=C(CN2C3=NC=NC(=C3N=C2)C=2C(=NC=CC2)F)C=C1 | C18H14FN5O
